US05008271
In 5 ml of pyridine was dissolved 101 mg of DC-89B2 obtained in Reference Example 2 and 3 mg of dimethylaminopyridine and 0.1 ml of dimethylcarbamyl chloride were added to the solution. After stirring at room temperature overnight, the reaction mixture was poured into 2 N hydrochloric acid and extracted with chloroform. After washing successively with aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, the chloroform layer was dried over anhydrous sodium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (50 ml; eluted with chloroform) to give 64 mg of Compound 13 (yield, 57%).

reactant | dimethylcarbamyl chloride | 0.1 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | dimethylaminopyridine | 3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
